US04506078
To a slurry of 1.96 g. of 4-chloro-7-nitroindole in 100 ml. of methanol containing 400 mg. of sodium hydroxide in a 500-ml. Parr bottle was added 196 mg. of 10% palladium on charcoal. The suspension was shaken for 21/2 hours under an initial hydrogen pressure of 3 atmospheres (absorption ceased after 11/2 hours). The catalyst was removed by filtration and the pale yellow solution was evaporated on a rotary evaporator under reduced pressure. The residue was partitioned between 75 ml. of toluene and 35 ml. of water, and the toluene layer washed with 35 ml. of water. The water phases were then extracted with three 75 ml. portions of chloroform. The toluene and chloroform extracts were evaporated to give 950 mg. and 420 mg. respectively, of greyish crystals. On sublimation on the steambath at 0.08 mm., 567 mg. (43%) of 7-aminoindole having a melting point of 98°-99° was obtained.

reactant | 4-chloro-7-nitroindole | ClC1=C2C=CNC2=C(C=C1)[N+](=O)[O-] | C8H5ClN2O2
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | 400 mg | CO | CH4O
product | 7-aminoindole | 43% | NC=1C=CC=C2C=CNC12 | C8H8N2
